US07737295B2
To a solution of 2-[3,5-bis(trifluoromethyl)phenyl]-N-{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}acetamide (77.6 mg, 0.134 mmol) in THF (4.4 mL) was added BH3 (1.34 mL of a 1M solution in THF, 1.34 mmol). The reaction was stirred overnight at room temperature and then 1 N HCl (10 mL) was added. The mixture was stirred for 5 minutes and then adjusted to a slightly basic pH with 1 N NaOH. The mixture was then extracted with CH2Cl2 (4×20 mL). The organic extracts were dried over Na2SO4, filtered, and concentrated. Purification of the residue by flash chromatography with 25 to 40% EtOAc/hexanes gave {2-[3,5-bis(trifluoromethyl)phenyl]ethyl}{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}amine. Rf=0.17 (25% EtOAc/hexanes). LCMS=564.3 (M+1)+. 1H NMR (CD2Cl2, 500 MHz) δ 7.75 (s, 1H), 7.73 (s, 1H), 7.64 (s, 2H), 7.53 (d, J=8.0 Hz, 1H), 7.30 (d, J=8.0 Hz, 1H), 7.24 (dd, J=8.2, 2.0 Hz, 1H), 6.98 (d, J=2.3 Hz, 1H), 6.91 (d, J=8.5 Hz, 1H), 3.58-3.73 (m, 5H), 2.88 (m, 1H), 2.74-2.81 (m, 4H), 1.22 (d, J=6.9 Hz, 6H).

reactant | 2-[3,5-bis(trifluoromethyl)phenyl]-N-{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}acetamide | 0.134 mmol, 77.6 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)CC(=O)NCC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC)(F)F | C28H24F9NO2
reactant | HCl | 1 N, 10 mL | Cl | ClH
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | THF | 4.4 mL | C1CCOC1 | C4H8O
product | {2-[3,5-bis(trifluoromethyl)phenyl]ethyl}{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}amine | FC(C=1C=C(C=C(C1)C(F)(F)F)CCNCC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC)(F)F | C28H26F9NO
